US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 6,7,8,9-tetrahydro-5H-benzocycloheptene-5-carboxylic acid (0.29 g) and [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.37 g) as starting materials, N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-6,7,8,9-tetrahydro-5H-benzocycloheptene-5-carboxamide (0.36 g) was obtained.

reactant | 6,7,8,9-tetrahydro-5H-benzocycloheptene-5-carboxylic acid | 0.29 g | C1=CC=CC2=C1CCCCC2C(=O)O | C12H14O2
reactant | [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.37 g | C(C)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C15H21N3
product | N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-6,7,8,9-tetrahydro-5H-benzocycloheptene-5-carboxamide | 0.36 g | C(C)N1N=CC(=C1)CN(C(=O)C1CCCCC2=C1C=CC=C2)C2=CC=C(C=C2)C(C)C | C27H33N3O
